US04150153
Sodium hydroxide (0.40 g. of 50% dispersion in mineral oil) is added to 0.61 g. imidazole in 10 ml dimethylformamide and the mixture stirred at room temperature until the evolution of hydrogen is complete. Bromomethyl 2-naphthoyl ketone dimethyl ketal (2.21 g.) in 5 ml. dimethylformamide is then added and the mixture stirred for 24 hours at 110° under nitrogen. The resulting solution is poured into water (400 ml), extracted with ether (400 ml total), and the extracts washed, dried (MgSO4) and evaporated. The resulting crude solid (2.2 g) is recrystallized from toluene to give 1-[2-(2-naphthyl)-2,2-dimethoxyethyl]imidazole as a colorless solid.

reactant | Sodium hydroxide | 0.40 g | [OH-].[Na+]
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | hydrogen | [H][H] | H2
reactant | Bromomethyl 2-naphthoyl ketone dimethyl ketal | 2.21 g | COC(C1=CC2=CC=CC=C2C=C1)(C(=O)CBr)OC | C15H15BrO3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 400 ml | O | H2O
product | 1-[2-(2-naphthyl)-2,2-dimethoxyethyl]imidazole | C1=C(C=CC2=CC=CC=C12)C(CN1C=NC=C1)(OC)OC | C17H18N2O2
